US07193023B2
Synthesis of Ethoxymethyl methacrylate (EMMA)
To a 500-mL, 3-necked round bottomed flask equipped with a thermocouple temperature monitor, 250-mL addition funnel, nitrogen inlet and a magnetic stirrer was added 150 mL of dichloromethane, and 18.9 g (0.22 mol) of methacrylic acid. The addition funnel was charged with a mixture of 22.3 g (0.23 mol) of triethylamine and 25 mL of dichloromethane which was then added in a thin stream to the flask with stirring in an ice-bath. Upon completion of the addition, the addition funnel was recharged with a mixture of 18.9 g (0.2 mol) of chloromethyl ethyl ether and 25 mL of dichloromethane which was subsequently added dropwise to the reaction mixture with cooling over about 15 minutes. The ice bath was removed and the mixture stirred at room temperature overnight. The resulting suspension was filtered and the filtrate washed several times with saturated bicarbonate, water and brine and dried over anhydrous magnesium sulfate. Filtration and removal of the solvent by evaporation on a rotary evaporator provided 26.1 g of a yellowish oil which was distilled at reduced pressure to provide 20.3 g (70%) of the title compound as a clear, colorless oil.

reactant | methacrylic acid | 0.22 mol, 18.9 g | C(C(=C)C)(=O)O | C4H6O2
reactant | triethylamine | 0.23 mol, 22.3 g | C(C)N(CC)CC | C6H15N
reactant | chloromethyl ethyl ether | 0.2 mol, 18.9 g | C(C)OCCl | C3H7ClO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Ethoxymethyl methacrylate | 26.1 g | C(C(=C)C)(=O)OCOCC | C7H12O3
